US06908913B2
7-[(5-Methylthiopyridin-3-yl)hydroxymethyl]imidazo-[5,1-b]thiazole (119 mg) was prepared in substantially the same manner as in step a) of Synthesis Example 5, except that 204 mg of 3-bromo-5-methylthiopyridine, 0.656 ml of a 1.6 N n-butyllithium/n-hexane solution, and 102 mg of 7-formylimidazo[5,1-b]thiazole were used as the starting materials.

reactant | 3-bromo-5-methylthiopyridine | 204 mg | BrC=1C=NC=C(C1)SC | C6H6BrNS
reactant | n-butyllithium n-hexane | 1.6 N | C(CCC)[Li].CCCCCC
reactant | 7-formylimidazo[5,1-b]thiazole | 102 mg | C(=O)C=1N=CN2C1SC=C2 | C6H4N2OS
product | 7-[(5-Methylthiopyridin-3-yl)hydroxymethyl]imidazo-[5,1-b]thiazole | 119 mg | CSC=1C=C(C=NC1)C(C=1N=CN2C1SC=C2)O | C12H11N3OS2
